US09169200B2
0.204 mL (2.0 mmol) of nitrobenzene and either of 17.2 mg (the amount required for swelling of the reactant, nitrobenzene, in 100%) of Polymer supported reagent-1 synthesized in Example 3 or 14 mg (the amount required for swelling of the reactant, nitrobenzene, in 100%) of Polymer supported reagent-2 synthesized in Example 4 were put into a 50 mL, two-neck flask equipped with a water cooler, and the resulting mixture was stirred at a nitrogen atmosphere for 20 minutes to swell the the polymer supported reagent with the reactant. To this were added 0.262 g (4.0 mmol) of Zn powders, 0.214 g (4.0 mmol) of NH4Cl, and 15 mL of distilled water, and then the reduction reaction was conducted at 80° C. for 200 minutes. After the completion of the reaction, 30 mL of an organic solvent, EA was added thereto and stirred at room temperature for 30 minutes. The resulting mixture was then filtered to separate firstly the solid mixture and the liquid mixture solution. The liquid mixture solution as obtained was put into a separating funnel to separate a water layer and an EA layer. To the separated water layer was added 20 mL of EA and stirred to extract the product remained in the water layer. This procedure was repeated 3 times. To the EA solution as combined was added 1.0 g of anhydrous magnesium sulfate and the resulting mixture was stirred for 30 minutes and then filtered. From the filtered EA solution, an excessive amount of EA was evaporated by using an evaporator to obtain azoxybenzene as a main product.

reactant | nitrobenzene | 2.0 mmol, 0.204 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | water | O | H2O
reactant | NH4Cl | 4.0 mmol, 0.214 g | [NH4+].[Cl-]
reactant | water | 15 mL | O | H2O
catalyst | Zn | 4.0 mmol, 0.262 g | [Zn] | Zn
solvent | EA | CC(OCC)=O | C4H8O2
product | azoxybenzene | [N+]([O-])(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2O
